US04520193
A solution of p-toluenesulphonic acid monohydrate (3.8 g) in acetonitrile (50 cc) is added, in the course of 30 minutes, to a solution of 3-acetonyl-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (5.23 g) in acetonitrile (50 cc) at 40° C. The mixture is kept at 40° C. for 30 minutes and then concentrated under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. to a volume of about 30 cc. It is diluted with methylene chloride (150 cc) and the solution is washed with a saturated aqueous solution of sodium bicarbonate (50 cc) and dried over magnesium sulphate. This yields a solution of 3-acetonyl-7-amino-2-benzhydryloxycarbonyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene, which is identical to the product described in Reference Example 2.

reactant | p-toluenesulphonic acid monohydrate | 3.8 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3-acetonyl-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 5.23 g | C(C(=O)C)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H30N2O6S
solvent | acetonitrile | 50 cc | C(C)#N | C2H3N
solvent | acetonitrile | 50 cc | C(C)#N | C2H3N
product | 3-acetonyl-7-amino-2-benzhydryloxycarbonyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C(=O)C)C1=C(N2C(C(C2SC1)N)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C23H22N2O4S
